US06437146B1
To a solution of 2-phenylethylamine (3.0 g, 24.8 mmol) in DMF (30 ml) was added ethyl bromoacetate (3.0 ml, 27.3 mmol) at 5° C. Then triethylamine (4.15 ml, 29.8 mmol) was added thereto at the same temperature. After stirring the resulting mixture at room temperature for 18 hours, the reaction mixture was diluted with EtOAc, washed with water and brine successively, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography (methylene chloride:MeOH, 20:1) to give ethyl phenethylaminoacetate (1.87 g, 37%) as an oil.

reactant | 2-phenylethylamine | 24.8 mmol, 3.0 g | C1(=CC=CC=C1)CCN | C8H11N
reactant | ethyl bromoacetate | 27.3 mmol, 3.0 ml | BrCC(=O)OCC | C4H7BrO2
reactant | triethylamine | 29.8 mmol, 4.15 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl phenethylaminoacetate | 1.87 g, 37% | C(CC1=CC=CC=C1)NCC(=O)OCC | C12H17NO2
